US06177449B1
c) N-[2,2-Dimethyl-6-hydroxychroman-4-yl]-N-methylethanesulfonamide
7.2 g (18.5 mmol) of N-[6-benzyloxy-2,2-dimethylchroman-4-yl]-N-methylethanesulfonamide were dissolved in 150 ml of THF/methanol (1:1) and hydrogenated in a shaking duck using Pd/carbon. After absorption of hydrogen was complete, the catalyst was filtered off with suction, the filtrate was concentrated and the residue was crystallized using diisopropyl ether, 5.0 g, m.p. 160-162° C.

reactant | N-[6-benzyloxy-2,2-dimethylchroman-4-yl]-N-methylethanesulfonamide | 18.5 mmol, 7.2 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)N(S(=O)(=O)CC)C | C21H27NO4S
solvent | THF methanol | 150 ml | C1CCOC1.CO
catalyst | Pd carbon | [Pd].[C]
product | N-[2,2-Dimethyl-6-hydroxychroman-4-yl]-N-methylethanesulfonamide | CC1(OC2=CC=C(C=C2C(C1)N(S(=O)(=O)CC)C)O)C | C14H21NO4S
